US09421205B2
(b) Ethyl 2-(3-((trimethylsilyl)ethynyl)pyrazin-2-yl)acetate (I100)
A mixture of the ethyl 2-(3-chloropyrazin-2-yl)acetate (I99) (0.410 g, 2.04 mmol), DMF (6 mL), triethylamine (2 mL), bis(triphenylphosphine)palladium(II) chloride (72 mg, 5 mol %) and copper(I) iodide (19 mg, 5 mol %) in a Schlenk tube was degassed with three vacuum/nitrogen cycles, then trimethylsilylacetylene (0.866 mL, 6.13 mmol) was added under nitrogen. The tube was flushed with nitrogen, sealed and heated to 90° C. After 18 hours the mixture was cooled and poured into water (50 mL). Saturated ammonium chloride (50 mL) was added, and the mixture was extracted with diethyl ether (3×100 mL). The combined ether phases were washed with brine, dried (sodium sulphate) and evaporated. The residue was chromatographed (40 g silica cartridge, 0-30% ethyl acetate/petroleum benzine 40-60° C.) to give the title compound (I100) (0.386 g, 72% yield) as a yellow oil; 1H NMR (400 MHz, CDCl3) δ 8.47-8.41 (m, 2H), 4.20 (q, J=7.1 Hz, 2H), 4.05 (s, 2H), 1.26 (t, J=7.1 Hz), 0.28 (s, 9H). LCMS Method C: rt 6.20 min; m/z 263.1 [M+H]+.

reactant | ethyl 2-(3-chloropyrazin-2-yl)acetate | 2.04 mmol, 0.410 g | ClC=1C(=NC=CN1)CC(=O)OCC | C8H9ClN2O2
reactant | DMF | 6 mL | CN(C)C=O | C3H7NO
reactant | trimethylsilylacetylene | 6.13 mmol, 0.866 mL | C[Si](C)(C)C#C | C5H10Si
catalyst | bis(triphenylphosphine)palladium(II) chloride | 72 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 19 mg | [Cu]I
solvent | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
product | Ethyl 2-(3-((trimethylsilyl)ethynyl)pyrazin-2-yl)acetate | 72% yield | C[Si](C)(C)C#CC=1C(=NC=CN1)CC(=O)OCC | C13H18N2O2Si
